US07084154B2
A mixture of 3-phthalimidopropyltriphenylphosphonium bromide (15.1 g) and 3-chlorobenzaldehyde (4.0 g, Aldrich, U.S.A.) in tetrahydrofuran (150 mL) was cooled to −78° C. in a dry ice/acetone bath. Potassium tert-butoxide (3.2 g) was added and the mixture was stirred for 20 min, then allowed to warm to 0° C. After four hours, the solution was poured into 200 mL water and extracted three times with ethyl acetate. The combined ethyl acetate layers were dried over sodium sulfate, and reduced in vacuo. The residue was dissolved in 200 mL of a 1:1 mixture of ethyl acetate/hexanes, and filtered through a short silica gel plug to remove the triphenylphosphine oxide byproduct. Evaporation of the filtrate yielded 5.7 g of cis-N-[4-(3-chlorophenyl)-but-3-enyl]-phthalimide in a 10:1 ratio of cis:trans isomers.

reactant | 3-phthalimidopropyltriphenylphosphonium bromide | 15.1 g | [Br-].C1(C=2C(C(N1CCC[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)=O)=CC=CC2)=O
reactant | 3-chlorobenzaldehyde | 4.0 g | ClC=1C=C(C=O)C=CC1 | C7H5ClO
reactant | Potassium tert-butoxide | 3.2 g | CC(C)([O-])C.[K+]
reactant | water | 200 mL | O | H2O
solvent | tetrahydrofuran | 150 mL | O1CCCC1 | C4H8O
product | cis-N-[4-(3-chlorophenyl)-but-3-enyl]-phthalimide | 5.7 g | ClC=1C=C(C=CC1)\C=C/CCN1C(C=2C(C1=O)=CC=CC2)=O | C18H14ClNO2
